US08034256B2
Under an argon gas atmosphere, 121 g (700 mmol) of 2-naphthaleneboronic acid, 200.0 g (700 mmol) of 1,4-dibromonaphthalene, 16.2 g (13.4 mmol) of tetrakis(triphenylphosphine) palladium(0), 3.0L of toluene, 3.2L of dimethoxyethane and 1.60L of 2M sodium carbonate solution were mixed, and stirred for 20 hours at 78 degrees C. The reaction mixture experienced filtration to be subsequently cleansed by water and methanol. The obtained solid was added with toluene to be heat-dissolved. Insoluble matter therein was eliminated by filtration, such that the filtrate was distilled away under reduced pressure. By recrystallizing residue by toluene and hexane, 59 g of 4-bromo-1-(2-naphthyl)naphthalene was obtained at an yield of 25%.

reactant | 2-naphthaleneboronic acid | 700 mmol, 121 g | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | 1,4-dibromonaphthalene | 700 mmol, 200.0 g | BrC1=CC=C(C2=CC=CC=C12)Br | C10H6Br2
reactant | toluene | 3.0L | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2M, 1.60L | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine) palladium(0) | 13.4 mmol, 16.2 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dimethoxyethane | 3.2L | C(OC)COC | C4H10O2
product | 4-bromo-1-(2-naphthyl)naphthalene | 59 g, yield of 25% | BrC1=CC=C(C2=CC=CC=C12)C1=CC2=CC=CC=C2C=C1 | C20H13Br
